US05236952
10.0 g of 2,3-dimethoxy-5-nitrobenzaldehyde are treated with 50 ml of glacial acetic acid and 50 ml of constant-boiling hydrobromic acid and held at the reflux temperature for 7 hours. After treatment with ice the separated precipitate is filtered under suction, washed with water and taken up in ethyl acetate. The organic phase is dried over sodium sulfate and evaporated. The crude product obtained is filtered over silica gel with ethyl acetate. After crystallization from ethyl acetate/hexane there is obtained 2,3-dihydroxy-5-nitro- benzaldehyde in the form of brownish crystals of m.p. 226°-228°.

reactant | 2,3-dimethoxy-5-nitrobenzaldehyde | 10.0 g | COC1=C(C=O)C=C(C=C1OC)[N+](=O)[O-] | C9H9NO5
reactant | hydrobromic acid | 50 ml | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,3-dihydroxy-5-nitro- benzaldehyde | OC1=C(C=O)C=C(C=C1O)[N+](=O)[O-] | C7H5NO5
